US06114310
(B) Methyl N-Boc-N-(phenethyl)glycinate
Methyl N-(phenethyl)glycinate (250 mg, 1.3 mmol) was dissolved in 20 mL of 1:1-water/dioxane, and sodium bicarbonate (2.6 mmol) and di-tert-butyl dicarbonate (1.9 mmol) were added. After 14 hr at 25° C., the dioxane was concentrated in vacuo and the aqueous solution neutralized to pH4 with 5% citric acid (5 mL) and extracted with ethyl acetate. The organic phase was collected, dried over anhydrous sodium sulfate, and concentrated in vacuo to afford titled compound (358 mg): 1H NMR (400 MHz, CDCl3) δ 1.44-1.46 (9 H), 2.80-2.89 (2 H), 3.46-3.54 (2 H), 3.73 (3 H), 3.77 (1 H), 3.89 (1 H), and 7.0-7.3 (5 H).

reactant | Methyl N-(phenethyl)glycinate | 1.3 mmol, 250 mg | C(CC1=CC=CC=C1)NCC(=O)OC | C11H15NO2
reactant | sodium bicarbonate | 2.6 mmol | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 1.9 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | Methyl N-Boc-N-(phenethyl)glycinate | 358 mg | C(=O)(OC(C)(C)C)N(CC(=O)OC)CCC1=CC=CC=C1 | C16H23NO4
